US06525070B2
Step a: 4-(3,4-Dichloro-phenoxy)-[1,4′]bipiperidinyl-1′-carboxylic acid tert-butyl ester
4-(3,4-Dichlorophenoxy)piperidine (1.5 g) was dissolved in 1,2-dichloroethane (21 ml). 1-Boc-4-piperidone was added (1.21 g) followed by NaBH(OAc)3 (1.81 g) and acetic acid (0.37 g). After 18 hours at room temperature aqueous NaOH (1M) solution and diethyl ether were added. The product was extracted with diethyl ether, the combined organic extracts dried with MgSO4 and concentrated. Purification by silica chromatography (dichloromethane:methanol 92:8) gave the sub-title product (1.97 g).

reactant | 4-(3,4-Dichlorophenoxy)piperidine | 1.5 g | ClC=1C=C(OC2CCNCC2)C=CC1Cl | C11H13Cl2NO
reactant | 1-Boc-4-piperidone | C(=O)(OC(C)(C)C)N1CCC(CC1)=O | C10H17NO3
reactant | NaBH(OAc)3 | 1.81 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | NaOH | 1M | [OH-].[Na+]
solvent | 1,2-dichloroethane | 21 ml | ClCCCl | C2H4Cl2
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | acetic acid | 0.37 g | C(C)(=O)O | C2H4O2
product | 4-(3,4-Dichloro-phenoxy)-[1,4′]bipiperidinyl-1′-carboxylic acid tert-butyl ester | 1.97 g | C(C)(C)(C)OC(=O)N1CCC(CC1)N1CCC(CC1)OC1=CC(=C(C=C1)Cl)Cl | C21H30Cl2N2O3
